US06531502B1
4-(2-Methoxycarbonylethyl)-3-methyl-5-(2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid ethyl ester (81.7 g) ), 56.5 g of potassium hydroxide, 200 mL of ethanol and 200 mL of water were charged to a 1 L, 3 neck round bottom flask equipped with mechanical stirring and a thermometer. The mixture was stirred at 90° C. for 90 minutes, cooled to room temperature, and acidified with acetic acid until a precipitate formed. The precipitate was collected by vacuum filtration, washed with 50 mL of water and vacuum dried to give 69.1 g (85 %) of 4-(2-carboxyethyl)-3-methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid as a red solid.

reactant | 4-(2-Methoxycarbonylethyl)-3-methyl-5-(2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 81.7 g | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OC)C=C1C(NC2=CC=CC=C12)=O | C21H22N2O5
reactant | potassium hydroxide | 56.5 g | [OH-].[K+]
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | water | 200 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(2-carboxyethyl)-3-methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 69.1 g, 85 % | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC=CC=C12)=O)C(=O)O)C | C18H16N2O5
